US09278910B2
Prepared using General Procedure 5. To a stirred solution of tert-butyl 2-(N-(4-(5-(4-methylphenylsulfonamido)-1,2,4-oxadiazol-3-yl)benzyl)-4-nitrobenzamido)acetate INT-68 (20 mg, 0.033 mmol) in THF (3 mL) and water (1 mL) was added sodium dithionite (17.2 mg, 0.099 mmol) and heated to 65° C. for 2 h. The reaction mixture was extracted with EA (10 mL) and washed with brine (10 mL). The organics were concentrated in vacuo to afford 13 mg (65%) of tert-butyl 2-(4-amino-N-(4-(5-(4-methylphenylsulfonamido)-1,2,4-oxadiazol-3-yl)benzyl)benzamido)acetate INT-69 as a white solid. LCMS-ESI (m/z) calculated for C29H31N5O6S: 577; found 576 [M−H]−, tR=2.41 min (Method 5).

reactant | tert-butyl 2-(N-(4-(5-(4-methylphenylsulfonamido)-1,2,4-oxadiazol-3-yl)benzyl)-4-nitrobenzamido)acetate | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NO1)C1=CC=C(CN(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)CC(=O)OC(C)(C)C)C=C1 | C29H29N5O8S
reactant | water | 1 mL | O | H2O
reactant | sodium dithionite | 0.099 mmol, 17.2 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(4-amino-N-(4-(5-(4-methylphenylsulfonamido)-1,2,4-oxadiazol-3-yl)benzyl)benzamido)acetate | 13 mg, 65% | NC1=CC=C(C(=O)N(CC2=CC=C(C=C2)C2=NOC(=N2)NS(=O)(=O)C2=CC=C(C=C2)C)CC(=O)OC(C)(C)C)C=C1 | C29H31N5O6S
